US05643908
3-(R)-Benzyloxycarbonyloctanoic acid
A 4M hydrochloric acid-dioxane solution (15 ml) was added to tert-butyl 3-(R)-benzyloxycarbonyloctanoate (983 mg), prepared in Referential Example 6, and the resulting mixture was stirred overnight. The reaction mixture was poured into water and extracted with ethyl acetate. The organic extract was dried over anhydrous sodium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by column chromatography through silica gel, using a 30:1 mixture of chloroform and methanol as an eluent, to give 838 mg of the desired compound as a colorless oil.

reactant | hydrochloric acid dioxane | 4M, 15 ml | Cl.O1CCOCC1
reactant | tert-butyl 3-(R)-benzyloxycarbonyloctanoate | 983 mg | C(C1=CC=CC=C1)OC(=O)[C@@H](CC(=O)OC(C)(C)C)CCCCC | C20H30O4
solvent | water | O | H2O
product | 3-(R)-Benzyloxycarbonyloctanoic acid | 838 mg | C(C1=CC=CC=C1)OC(=O)[C@@H](CC(=O)O)CCCCC | C16H22O4
